US07253165B2
Synthesis of 3-(4-methoxy-phenyl)-benzo[b]thiophene (Scheme II, Compound 8)
Mix 3-bromobenzo[b]thiophene (5.83 g, 27.4 mmol), tetrakis(triphenylphosphine)palladium (O) (1.00 g, 0.865 mmol) and toluene (60 mL) and purge with nitrogen. Rapidly, add a 2 M aqueous solution of sodium carbonate (27 mL) and purge with nitrogen. Add a solution of 4-methoxyphenylboronic acid (4.57 g, 30.1 mmol) in methanol (13 mL), purge with nitrogen and heat at a gentle reflux for 4.5 hours. Let cool and stir at room temperature, overnight. TLC (30% dicloromethane in heptane) shows that all starting material is consumed. Dilute reaction mixture with ethyl acetate (100 mL). Wash with 2 M sodium carbonate (75 mL), water (75 mL), saturated sodium chloride (75 mL), dry (MgSO4) and concentrate (in vacuo) to give a residue. Purify the residue by column (silica) chromatography (20% dichloromethane in heptane) to give a mixture as a residue. Dissolve the residue in 30% ether in heptane, filter, evaporate and dry (0.5 mm Hg, room temperature) to give the title compound as a clear oil (5.47 g, 83% Yield).

reactant | 3-bromobenzo[b]thiophene | 27.4 mmol, 5.83 g | BrC=1C2=C(SC1)C=CC=C2 | C8H5BrS
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-methoxyphenylboronic acid | 30.1 mmol, 4.57 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | methanol | 13 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | heptane | CCCCCCC | C7H16
catalyst | tetrakis(triphenylphosphine)palladium | 0.865 mmol, 1.00 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-methoxy-phenyl)-benzo[b]thiophene | 5.47 g, 83% Yield | COC1=CC=C(C=C1)C=1C2=C(SC1)C=CC=C2 | C15H12OS
